US09126940B2
To a solution of tert-butyl (1E,4E)-4-(dipropylcarbamoyl)-8-(4-hydroxyphenyl)-3H-benzo[b]azepin-2-ylcarbamate (699 mg, 1.30 mmol) and 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (698 mg, 1.95 mmol) in CH2Cl2 (7 mL) was added TEA (0.27 ml, 1.95 mmol) at room temperature. After stirring for 23 h at room temperature, the reaction mixture was diluted with CH2Cl2 (25 mL) and washed with saturated aq NaHCO3 (15 mL) followed by brine (15 mL). The organic layer was dried over MgSO4, filtered, and concentrated under reduced pressure to give the crude material that was purified by silica gel flash column chromatography (10 to 30% EtOAc in hexanes, gradient) to afford 526 mg (66%) of 4-((1E,4E)-2-(tert-butoxycarbonylamino)-4-(dipropylcarbamoyl)-3H-benzo[b]azepin-8-yl)phenyl trifluoromethanesulfonate. MS APCI (+) m/z 610 (M+1) detected.

reactant | tert-butyl (1E,4E)-4-(dipropylcarbamoyl)-8-(4-hydroxyphenyl)-3H-benzo[b]azepin-2-ylcarbamate | 1.30 mmol, 699 mg | C(CC)N(C(=O)/C/1=C/C2=C(\N=C(/C1)\NC(OC(C)(C)C)=O)C=C(C=C2)C2=CC=C(C=C2)O)CCC | C28H35N3O4
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 1.95 mmol, 698 mg | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 4-((1E,4E)-2-(tert-butoxycarbonylamino)-4-(dipropylcarbamoyl)-3H-benzo[b]azepin-8-yl)phenyl trifluoromethanesulfonate | 526 mg, 66% | FC(S(=O)(=O)OC1=CC=C(C=C1)C=1C=CC\2=C(\N=C(/C\C(=C2)\C(N(CCC)CCC)=O)\NC(=O)OC(C)(C)C)C1)(F)F | C29H34F3N3O6S
